US07612078B2
N-(1-(1-(3,5-Difluorophenyl)ethyl)piperidin-4-yl)-6-isobutylthieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (127 mg, 69%) from 6-isobutyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (125 mg, 0.43 mmol) and 1-(3,5-difluorophenyl)ethyl methanesulfonate (243 mg, 1.03 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3): δ 8.40 (s, 1H), 6.90 (m, 2H), 6.75 (s, 1H), 6.70 (m, 1H), 4.95 (d, 1H), 4.15 (m, 1H), 3.45 (m, 1H), 2.95 (m, 1H), 2.80 (m, 1H), 2.70 (d, 2H), 2.20 (m, 4H), 1.95 (m, 1H), 1.55 (m, 2H), 1.35 (d, 3H), 0.95 (d, 6H). MS (ESI) m/z: Calculated: 430.56; Observed: 431.1 (M++1).

reactant | 6-isobutyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 0.43 mmol, 125 mg | C(C(C)C)C1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C15H22N4S
reactant | 1-(3,5-difluorophenyl)ethyl methanesulfonate | 1.03 mmol, 243 mg | CS(=O)(=O)OC(C)C1=CC(=CC(=C1)F)F | C9H10F2O3S
product | N-(1-(1-(3,5-Difluorophenyl)ethyl)piperidin-4-yl)-6-isobutylthieno[2,3-d]pyrimidin-4-amine | FC=1C=C(C=C(C1)F)C(C)N1CCC(CC1)NC=1C2=C(N=CN1)SC(=C2)CC(C)C | C23H28F2N4S
